US07714098B2
3,6-Didodecylthieno[3,2-b]thiophene
A 20 mL glass vial is charged with 3,6-dibromothieno[3,2-b]thiophene (1.00 g, 3.36 mmol) and Pd(dppf)Cl2 (0.14 g, 0.17 mmol, 5 mol %), and purged with nitrogen for 10 minutes. A 0.5M solution of dodecylzinc bromide in anhydrous THF (15 mL, 7.5 mmol) is added. The glass vial is placed into a microwave reactor (Emrys Creator, Personal Chemistry Ltd) and heated at 150° C. for 10 minutes with stirring. After cooling to RT, the reaction mixture is diluted with diethyl ether (100 mL) and quenched with 5% hydrochloric acid (50 mL). The organic layer is separated and the aqueous layer is re-extracted with diethyl ether (100 mL). The combined extracts are washed with water (2×50 mL), dried over sodium sulphate, and concentrated in vacuo. The crude product is filtered through a short plug of silica, eluting with petroleum ether 40-60. Recrystallisation from 2-butanone yielded the product as a pale yellow solid. 1H NMR (300 MHz, CDCl3) δ 6.95 (s, 2H), 2.70 (t, 4H), 1.74 (m, 4H), 1.22-1.42 (br, 36H), 0.88 (t, 6H). 13C NMR (75 MHz, CDCl3) δ 139.3, 135.5, 120.8, 31.9, 29.8, 29.69, 29.67, 29.6, 29.42, 29.37, 28.7, 22.7, 14.2.

reactant | 3,6-dibromothieno[3,2-b]thiophene | 3.36 mmol, 1.00 g | BrC=1C2=C(SC1)C(=CS2)Br | C6H2Br2S2
reactant | dodecylzinc bromide | [Br-].C(CCCCCCCCCCC)[Zn+]
reactant | THF | 7.5 mmol, 15 mL | C1CCOC1 | C4H8O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
catalyst | Pd(dppf)Cl2 | 0.17 mmol, 0.14 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3,6-Didodecylthieno[3,2-b]thiophene | C(CCCCCCCCCCC)C=1C2=C(SC1)C(=CS2)CCCCCCCCCCCC | C30H52S2
